US05654322
2-Butyrylamino-5-ethyl-1,3,4 -thiadiazole:
2-Amino-5-ethyl-1,3,4-thiadiazole (0.5 g) was added to a mixture of toluene (5 ml) and triethylamine (0.4 g). With stirring, butyryl chloride (0.5 g) was added to the suspension at room temperature. After stirring for 2 hours, aqueous sodium bicarbonate solution and ethyl acetate were added to the reaction mixture. The organic layer was separated and washed with water several times. The precipitated crystals and the organic layer were combined and the solvent was concentrated to 5 ml. The precipitated crystals were filtrated and dried. The title compound (0.62 g) was obtained.

reactant | 2-Amino-5-ethyl-1,3,4-thiadiazole | 0.5 g | NC=1SC(=NN1)CC | C4H7N3S
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | butyryl chloride | 0.5 g | C(CCC)(=O)Cl | C4H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
product | 2-Butyrylamino-5-ethyl-1,3,4 -thiadiazole | 0.62 g | C(CCC)(=O)NC=1SC(=NN1)CC | C8H13N3OS
